US04082851
By replacing in Example 110 3-amino-4-benzyl-5-sulfamylbenzylbromide hydrobromide and n-butylamine with 5-amino-4-benzyl-3-n-butoxybenzyl bromide hydrobromide and dimethylamine (40% in water) respectively, and following the procedure described, (5-amino-4-benzyl-3-n-butoxybenzyl)dimethylamine is obtained as a semi-solid material.

reactant | 3-amino-4-benzyl-5-sulfamylbenzylbromide hydrobromide | Br.NC=1C=C(CBr)C=C(C1CC1=CC=CC=C1)S(N)(=O)=O
reactant | n-butylamine | C(CCC)N | C4H11N
reactant | 5-amino-4-benzyl-3-n-butoxybenzyl bromide hydrobromide | Br.NC=1C(=C(C=C(CBr)C1)OCCCC)CC1=CC=CC=C1
reactant | dimethylamine | CNC | C2H7N
product | (5-amino-4-benzyl-3-n-butoxybenzyl)dimethylamine | NC=1C(=C(C=C(CN(C)C)C1)OCCCC)CC1=CC=CC=C1 | C20H28N2O
